*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CN20NJ1Z
* Property : L = 20[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CN20NJ1Z port1 port2
C1 port1 port2 6.19e-14
L2 port1 1 2.16e-8
R2 1 port2 3.23e-2
R3 port1 port2 182
L4 port1 2 2.37e-7
R4 2 port2 77.5
.ENDS LQW15CN20NJ1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CN20NK1Z
* Property : L = 20[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CN20NK1Z port1 port2
C1 port1 port2 6.19e-14
L2 port1 1 2.16e-8
R2 1 port2 3.23e-2
R3 port1 port2 182
L4 port1 2 2.37e-7
R4 2 port2 77.5
.ENDS LQW15CN20NK1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CN34NJ1Z
* Property : L = 34[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CN34NJ1Z port1 port2
C1 port1 port2 5.75e-14
L2 port1 1 3.79e-8
R2 1 port2 7.97e-2
R3 port1 port2 266
L4 port1 2 4.01e-7
R4 2 port2 84.9
.ENDS LQW15CN34NJ1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CN34NK1Z
* Property : L = 34[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CN34NK1Z port1 port2
C1 port1 port2 5.75e-14
L2 port1 1 3.79e-8
R2 1 port2 7.97e-2
R3 port1 port2 266
L4 port1 2 4.01e-7
R4 2 port2 84.9
.ENDS LQW15CN34NK1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CN53NJ1Z
* Property : L = 53[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CN53NJ1Z port1 port2
C1 port1 port2 3.44e-14
L2 port1 1 5.81e-8
R2 1 port2 1.38e-1
R3 port1 port2 366
L4 port1 2 5.76e-7
R4 2 port2 119
.ENDS LQW15CN53NJ1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CN53NK1Z
* Property : L = 53[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CN53NK1Z port1 port2
C1 port1 port2 3.44e-14
L2 port1 1 5.81e-8
R2 1 port2 1.38e-1
R3 port1 port2 366
L4 port1 2 5.76e-7
R4 2 port2 119
.ENDS LQW15CN53NK1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CN77NJ1Z
* Property : L = 77[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CN77NJ1Z port1 port2
C1 port1 port2 6.12e-14
L2 port1 1 8.79e-8
R2 1 port2 1.38e-1
R3 port1 port2 636
L4 port1 2 6.46e-7
R4 2 port2 119
.ENDS LQW15CN77NJ1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CN77NK1Z
* Property : L = 77[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CN77NK1Z port1 port2
C1 port1 port2 6.12e-14
L2 port1 1 8.79e-8
R2 1 port2 1.38e-1
R3 port1 port2 636
L4 port1 2 6.46e-7
R4 2 port2 119
.ENDS LQW15CN77NK1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR11J1Z
* Property : L = 106[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR11J1Z port1 port2
C1 port1 port2 4.59e-14
L2 port1 1 1.17e-7
R2 1 port2 3.17e-1
R3 port1 port2 729
L4 port1 2 1.15e-6
R4 2 port2 237
.ENDS LQW15CNR11J1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR11K1Z
* Property : L = 106[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR11K1Z port1 port2
C1 port1 port2 4.59e-14
L2 port1 1 1.17e-7
R2 1 port2 3.17e-1
R3 port1 port2 729
L4 port1 2 1.15e-6
R4 2 port2 237
.ENDS LQW15CNR11K1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR14J1Z
* Property : L = 140[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR14J1Z port1 port2
C1 port1 port2 4.72e-14
L2 port1 1 1.53e-7
R2 1 port2 4.71e-1
R3 port1 port2 1.01e+3
L4 port1 2 1.44e-6
R4 2 port2 304
.ENDS LQW15CNR14J1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR14K1Z
* Property : L = 140[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR14K1Z port1 port2
C1 port1 port2 4.72e-14
L2 port1 1 1.53e-7
R2 1 port2 4.71e-1
R3 port1 port2 1.01e+3
L4 port1 2 1.44e-6
R4 2 port2 304
.ENDS LQW15CNR14K1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR18J1Z
* Property : L = 180[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR18J1Z port1 port2
C1 port1 port2 4.81e-14
L2 port1 1 1.97e-7
R2 1 port2 7.12e-1
R3 port1 port2 1.28e+3
L4 port1 2 2.00e-6
R4 2 port2 502
.ENDS LQW15CNR18J1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR18K1Z
* Property : L = 180[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR18K1Z port1 port2
C1 port1 port2 4.81e-14
L2 port1 1 1.97e-7
R2 1 port2 7.12e-1
R3 port1 port2 1.28e+3
L4 port1 2 2.00e-6
R4 2 port2 502
.ENDS LQW15CNR18K1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR22J1Z
* Property : L = 220[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR22J1Z port1 port2
C1 port1 port2 5.08e-14
L2 port1 1 2.45e-7
R2 1 port2 8.87e-1
R3 port1 port2 1.83e+3
L4 port1 2 2.48e-6
R4 2 port2 667
.ENDS LQW15CNR22J1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR22K1Z
* Property : L = 220[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR22K1Z port1 port2
C1 port1 port2 5.08e-14
L2 port1 1 2.45e-7
R2 1 port2 8.87e-1
R3 port1 port2 1.83e+3
L4 port1 2 2.48e-6
R4 2 port2 667
.ENDS LQW15CNR22K1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR27J1Z
* Property : L = 270[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR27J1Z port1 port2
C1 port1 port2 6.91e-14
L2 port1 1 3.02e-7
R2 1 port2 1.02
R3 port1 port2 2.19e+3
L4 port1 2 2.95e-6
R4 2 port2 638
.ENDS LQW15CNR27J1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR27K1Z
* Property : L = 270[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR27K1Z port1 port2
C1 port1 port2 6.91e-14
L2 port1 1 3.02e-7
R2 1 port2 1.02
R3 port1 port2 2.19e+3
L4 port1 2 2.95e-6
R4 2 port2 638
.ENDS LQW15CNR27K1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR33J1Z
* Property : L = 330[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR33J1Z port1 port2
C1 port1 port2 8.95e-14
L2 port1 1 3.58e-7
R2 1 port2 1.25
R3 port1 port2 2.33e+3
L4 port1 2 3.62e-6
R4 2 port2 909
.ENDS LQW15CNR33J1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR33K1Z
* Property : L = 330[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR33K1Z port1 port2
C1 port1 port2 8.95e-14
L2 port1 1 3.58e-7
R2 1 port2 1.25
R3 port1 port2 2.33e+3
L4 port1 2 3.62e-6
R4 2 port2 909
.ENDS LQW15CNR33K1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR39J1Z
* Property : L = 390[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR39J1Z port1 port2
C1 port1 port2 1.37e-13
L2 port1 1 4.18e-7
R2 1 port2 1.46
R3 port1 port2 2.95e+3
L4 port1 2 4.50e-6
R4 2 port2 1.13e+3
L5 port1 3 1.87e-7
C5 3 4 1.96e-14
R5 4 port2 874
.ENDS LQW15CNR39J1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR39K1Z
* Property : L = 390[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR39K1Z port1 port2
C1 port1 port2 1.37e-13
L2 port1 1 4.18e-7
R2 1 port2 1.46
R3 port1 port2 2.95e+3
L4 port1 2 4.50e-6
R4 2 port2 1.13e+3
L5 port1 3 1.87e-7
C5 3 4 1.96e-14
R5 4 port2 874
.ENDS LQW15CNR39K1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR42J1Z
* Property : L = 420[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR42J1Z port1 port2
C1 port1 port2 1.45e-13
L2 port1 1 4.25e-7
R2 1 port2 1.65
R3 port1 port2 3.15e+3
L4 port1 2 4.60e-6
R4 2 port2 1.16e+3
L5 port1 3 1.44e-7
C5 3 4 2.65e-14
R5 4 port2 859
.ENDS LQW15CNR42J1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR42K1Z
* Property : L = 420[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR42K1Z port1 port2
C1 port1 port2 1.45e-13
L2 port1 1 4.25e-7
R2 1 port2 1.65
R3 port1 port2 3.15e+3
L4 port1 2 4.60e-6
R4 2 port2 1.16e+3
L5 port1 3 1.44e-7
C5 3 4 2.65e-14
R5 4 port2 859
.ENDS LQW15CNR42K1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR47J1Z
* Property : L = 470[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR47J1Z port1 port2
C1 port1 port2 1.18e-13
L2 port1 1 4.84e-7
R2 1 port2 1.68
R3 port1 port2 3.00e+3
L4 port1 2 5.09e-6
R4 2 port2 1.25e+3
L5 port1 3 9.83e-8
C5 3 4 3.39e-14
R5 4 port2 956
.ENDS LQW15CNR47J1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR47K1Z
* Property : L = 470[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR47K1Z port1 port2
C1 port1 port2 1.18e-13
L2 port1 1 4.84e-7
R2 1 port2 1.68
R3 port1 port2 3.00e+3
L4 port1 2 5.09e-6
R4 2 port2 1.25e+3
L5 port1 3 9.83e-8
C5 3 4 3.39e-14
R5 4 port2 956
.ENDS LQW15CNR47K1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR56J1Z
* Property : L = 560[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR56J1Z port1 port2
C1 port1 port2 2.10e-13
L2 port1 1 5.56e-7
R2 1 port2 1.95
R3 port1 port2 3.47e+3
L4 port1 2 5.22e-6
R4 2 port2 1.64e+3
L5 port1 3 4.58e-8
C5 3 4 7.23e-14
R5 4 port2 322
.ENDS LQW15CNR56J1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR56K1Z
* Property : L = 560[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR56K1Z port1 port2
C1 port1 port2 2.10e-13
L2 port1 1 5.56e-7
R2 1 port2 1.95
R3 port1 port2 3.47e+3
L4 port1 2 5.22e-6
R4 2 port2 1.64e+3
L5 port1 3 4.58e-8
C5 3 4 7.23e-14
R5 4 port2 322
.ENDS LQW15CNR56K1Z
*----------------------------------------------------------------------
